US07227032B2
To a flask having an inner volume of 100 ml and equipped with a stirring device and a dropping funnel were charged 3.0 g (36 mmol) of 3-methoxyacrylonitrile, 9.0 g (63 mmol) of a 25.7% by weight hydrogen chloride methanol solution and 15 ml of methanol. Under stirring, 4.7 g (43 mmol) of n-butyl nitrite was gradually added dropwise to the mixture to generate nitrosyl halide and n-butyl alcohol in the system (the method of the above-mentioned (1)), and the mixture was reacted at room temperature for 26 hours. After completion of the reaction, a saturated sodium hydrogen carbonate was added to the mixture to neutralize the mixture, and methanol was removed from the reaction mixture by distillation under reduced pressure. The aqueous layer was extracted with ethyl acetate, the organic layer was taken out, washed with a saturated saline solution, and dried over anhydrous magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure, the concentrate was recrystallized from toluene to obtain 2.6 g of 3,3-dimethoxy-2-hydroxyiminopropionitrile (Isolation yield: 50%) as white solid.

reactant | 3-methoxyacrylonitrile | 36 mmol, 3.0 g | COC=CC#N | C4H5NO
reactant | hydrogen chloride methanol | CO.Cl
reactant | n-butyl nitrite | 43 mmol, 4.7 g | N(=O)OCCCC | C4H9NO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | CO | CH4O
solvent | n-butyl alcohol | C(CCC)O | C4H10O
solvent | methanol | 15 ml | CO | CH4O
product | 3,3-dimethoxy-2-hydroxyiminopropionitrile | 2.6 g, yield: 50% | COC(C(C#N)=NO)OC | C5H8N2O3
